US05496843
9) 6-Chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester
A mixture of 6-chloro-4-(3-oxopropyl)indole-2-carboxylic acid methyl ester (12.0 g, 45.2 mmol) and (tert-butoxycarbonylmethylene)triphenylenephosphorane (18.7 g, 49.7 mmol)in toluene (500 mL) was refluxed for 1 h and concentrated. The residue was purified by silica gel column chromatography with 5:1 hexane/toluene to give 12.21 g of the title compound (82%): 1H NMR (CDCl3) δ9.03 (bs, 1H), 7.29 (d, 1H, J=1.7 Hz), 7.20 (d, 1H, J=2.0 Hz), 6.95 (d, 1H, J=2.0 Hz), 6.92 (dt, 1H, J=15.5, 6.6 Hz), 5.80 (dt, 1H, J=15.5, 1.7 Hz), 3.96 (s, 3H), 3.01 (dd, 2H, J=8.6, 7.3 Hz), 2.59 (dd, 2H, J=14.5, 6.6 Hz), 1.49 (s, 9H).

reactant | 6-chloro-4-(3-oxopropyl)indole-2-carboxylic acid methyl ester | 45.2 mmol, 12.0 g | COC(=O)C=1NC2=CC(=CC(=C2C1)CCC=O)Cl | C13H12ClNO3
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester | 12.21 g, 82% | COC(=O)C=1NC2=CC(=CC(=C2C1)CCC=CC(=O)OC(C)(C)C)Cl | C19H22ClNO4
